US04022797
N-[2-(2-benzimidazolylmethylamino)ethyl]-N'-cyano-N"-(2-dimethylaminoethyl)guanidine.
Using in the above procedure, 2-[(3-aminopropyl)aminomethyl]benzimidazole (prepared by reacting 2-chloromethylbenzimidazole with 1,3-diaminopropane) and methyl isothiocyanate, the product is N-[3-(2-benzimidazolylmethylamino)propyl]-N'-cyano-N"-methylguanidine.

reactant | 2-[(3-aminopropyl)aminomethyl]benzimidazole | NCCCNCC=1NC2=C(N1)C=CC=C2 | C11H16N4
reactant | methyl isothiocyanate | CN=C=S | C2H3NS
reactant | N-[3-(2-benzimidazolylmethylamino)propyl]-N'-cyano-N"-methylguanidine | N1=C(NC2=C1C=CC=C2)CNCCCNC(=NC)NC#N | C14H19N7
product | N-[2-(2-benzimidazolylmethylamino)ethyl]-N'-cyano-N"-(2-dimethylaminoethyl)guanidine | N1=C(NC2=C1C=CC=C2)CNCCNC(=NCCN(C)C)NC#N | C16H24N8
